US09085582B2
Sodium carbonate (66.3 mg), 4-pyridinylboronic acid (22.5 mg) and bis(triphenylphosphine)palladium(II) chloride (19.1 mg) were added to a 2-5 ml microwave vial. A solution of ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate (for a preparation see intermediate 2) (147.5 mg) in DME (3 ml) and water (1 ml) was added to the microwave vial. The reaction mixture was heated at 120° C. for 90 min (microwave). Ethyl acetate (2 ml) was added and the water layer was separated and acidified with glacial acetic acid. The aqueous was extracted with ethyl acetate (3×5 ml), the organic fractions dried and the solvent evaporated. The residue was chromatographed (0-10% methanol:DCM) and then further purified by MDAP (formate modifier) to give ethyl [(4S)-6-(4-chlorophenyl)-1-methyl-8-(4-pyridinyl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetate as a white solid (5.5 mg).

reactant | Sodium carbonate | 66.3 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-pyridinylboronic acid | 22.5 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)OS(=O)(=O)C(F)(F)F)C(=NN2)C)CC(=O)OCC | C22H18ClF3N4O5S
reactant | water | 1 ml | O | H2O
solvent | DME | 3 ml | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 19.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | ethyl [(4S)-6-(4-chlorophenyl)-1-methyl-8-(4-pyridinyl)-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetate | 5.5 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=NC=C3)C(=NN2)C)CC(=O)OCC | C26H22ClN5O2
